US05166406
1-[2-(Ethoxycarbonyl)ethyl]-1-cyclopentanecarboxylic acid
To a solution of 2-acetyl-2-[2-(ethoxycarbonyl)ethyl]-cyclohexanone (see Preparation 4) (40 g, 0.16 mol) in tert-butanol (85 ml) was added, dropwise, a 30% aqueous solution of hydrogen peroxide (21.7 ml, 0.19 mol) and concentrated sulfuric acid (0.25 ml, 98% w/w) at room temperature. The mixture was further stirred for 24 hours, partitioned between dichloromethane (100 ml) and distilled water (100 ml) and the layers separated. The dichloromethane layer was washed with 5% aqueous sodium sulphite solution, dried over magnesium sulphate, filtered and concentrated under reduced pressure to give a yellow oil, (34.35 g). Purification of this material by chromatography on silica by eluting with ethyl acetate/hexane (1:2 changing to 1:1), followed by neat ethyl acetate in the latter stages, gave, after combination and evaporation of appropriate fractions, the title compound as a yellow oil, (22.96 g, 67%). RF. 0.28 (silica, ethyl acetate/hexane, 1:1). 1H-NMR (300 MHz, CDCl3): =1.31 (t, 3H), 1.47-1.62 (m, 2H), 1.62-1.82 (m, 4H), 1.92-2.08 (m, 2H), 2.10-2.27 (m, 2H), 2.32-2.46 (m, 2H), 4.19 (q, 2H) ppm. 13C-NMR (75.5 MHz, CDCl3) 14.26, 25.15, 31.21, 33.56, 36.15, 53.21, 60.49, 173.38, 183.52 ppm.

reactant | 2-acetyl-2-[2-(ethoxycarbonyl)ethyl]-cyclohexanone | 0.16 mol, 40 g | C(C)(=O)C1(C(CCCC1)=O)CCC(=O)OCC | C13H20O4
reactant | hydrogen peroxide | 0.19 mol, 21.7 ml | OO | H2O2
reactant | sulfuric acid | 0.25 ml | S(O)(O)(=O)=O | H2O4S
solvent | tert-butanol | 85 ml | C(C)(C)(C)O | C4H10O
product | 1-[2-(Ethoxycarbonyl)ethyl]-1-cyclopentanecarboxylic acid | C(C)OC(=O)CCC1(CCCC1)C(=O)O | C11H18O4
